US05476867
Preparation of rel-(3R*,3aS*,7aS*)-2-methyl-3-(2-phenylethyl)-2,3,3a,4,5,6,7,7a-octahydrobenzo[d]isoxazol-4-one
N-(3-Phenylpropylidene)methylamine N-oxide (1.50 g, 9.19 mmol) and 2-cyclohexenone (5 ml) were heated at 80°-90° C. for 24 hours in a sealed tube under nitrogen. The solution was cooled to room temperature and the excess 2-cyclohexenone was removed under reduced pressure using Kugelrohr distillation to yield the crude product as a dark yellow oil (2.36 g, 99%). The crude product was purified by flash chromatography using 60:40 v/v light petroleum (fraction of bp 40°-60° C.):ethyl acetate as the solvent system to give the title compound as a colourless oil (2.11 g, 89%), vmax (film) 2941, 2872, 1710, 1454, 1235 cm-1 ; δH (250 MHz, CDCl3 --Me4Si) 1.70-2.0 (6H, br m), 2.25-2.55 (2H, m), 2.60-2.80 (2H, m), 2.70 (3H, s), 2.75 (1H, t), 3.25 (1H, br m), 4.45 (1H, br m), 7.10-7.30 (5H, br m); M/z 259 (M+ 100%) (Found: M+ 259.1572; C16H21NO2 requires M+ 259.1603).

reactant | N-(3-Phenylpropylidene)methylamine N-oxide | 9.19 mmol, 1.50 g | C1(=CC=CC=C1)CCC=[N+](C)[O-] | C10H13NO
reactant | 2-cyclohexenone | 5 ml | C1(C=CCCC1)=O | C6H8O
product | rel-(3R*,3aS*,7aS*)-2-methyl-3-(2-phenylethyl)-2,3,3a,4,5,6,7,7a-octahydrobenzo[d]isoxazol-4-one | 2.11 g, 89% | CN1O[C@@H]2[C@H]([C@H]1CCC1=CC=CC=C1)C(CCC2)=O | C16H21NO2
